US07960412B2
5′-Methoxy-2′-(3-methoxybenzyl)biphenyl-4-ol
Synthesized from 5-methoxy-2-(3-methoxybenzyl)phenyl trifluoromethanesulfonate and 4-benzyloxyphenylboronic acid according to an analogous synthetic method to Example 24, 4′-benzyloxy-5-methoxy-2-(3-methoxybenzyl)biphenyl (332 mg) was used according to an analogous synthetic method to Example 22 to provide the title compound (167 mg).

reactant | 5-methoxy-2-(3-methoxybenzyl)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=CC(=C1)OC)CC1=CC(=CC=C1)OC)(F)F | C16H15F3O5S
reactant | 4-benzyloxyphenylboronic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | 4′-benzyloxy-5-methoxy-2-(3-methoxybenzyl)biphenyl | 332 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C=CC(=C1)OC)CC1=CC(=CC=C1)OC | C28H26O3
product | 5′-Methoxy-2′-(3-methoxybenzyl)biphenyl-4-ol | 167 mg | COC=1C=CC(=C(C1)C1=CC=C(C=C1)O)CC1=CC(=CC=C1)OC | C21H20O3
